US06316466B1
A mixture of 4-fluorophenylhydrazine (26.6 g, 211 mmol) and 2-(3-iodobenzoyl)-3-phenylaminoacrylonitrile (79 g, 211 mmol) in ethanol (400 ml) was heated at reflux under a nitrogen atmosphere. After 30 minutes, the reaction mixture was cooled to room temperature, diluted with hexane to give 5-amino-4-(3-iodobenzoyl)-1-(4-fluorophenyl)pyrazole (75.1 g) as a solid.

reactant | 4-fluorophenylhydrazine | 211 mmol, 26.6 g | FC1=CC=C(C=C1)NN | C6H7FN2
reactant | 2-(3-iodobenzoyl)-3-phenylaminoacrylonitrile | 211 mmol, 79 g | IC=1C=C(C(=O)C(C#N)=CNC2=CC=CC=C2)C=CC1 | C16H11IN2O
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | hexane | CCCCCC | C6H14
product | 5-amino-4-(3-iodobenzoyl)-1-(4-fluorophenyl)pyrazole | 75.1 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)I)=O | C16H11FIN3O
